US08629168B2
d) (4-Bromo-2-methyl-phenyl)-morpholin-4-yl-methanone
A solution of 10.6 ml (47 mmol) oxalyl chloride in 30 ml dichloromethane is added dropwise to a iced-cooled solution of 5.21 g (23.5 mmol) 4-bromo-2-methyl-benzoic acid and 0.0087 ml DMF in 100 ml CH2Cl2. After complete addition, the cooling bath is removed and stirring maintained for 2 h at RT. The solvent is evaporated to dryness and the residue is dried in vacuo and dissolved in 100 ml dichloromethane and 8.21 ml N-ethyl-diisopropylamine is added. To this solution 2.5 ml (28 mmol) morpholine is added slowly. Stirring is continued for 0.5 h, then the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo to afford the title compound which is used in the next step without further purification.

reactant | oxalyl chloride | 47 mmol, 10.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo-2-methyl-benzoic acid | 23.5 mmol, 5.21 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | DMF | 0.0087 ml | CN(C)C=O | C3H7NO
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (4-Bromo-2-methyl-phenyl)-morpholin-4-yl-methanone | BrC1=CC(=C(C=C1)C(=O)N1CCOCC1)C | C12H14BrNO2
